US09447090B2
To a solution of 2 g of methyl 5-hydroxy-6-nitronicotinate, 1.62 ml of (2-fluorophenyl)methanol, and 3.99 ml of tributylphosphine in 40 ml of THF was added 2.54 ml of diethyl azodicarboxylate under ice-cooling, followed by stirring for 1 hour under ice-cooling and at room temperature for 2 hours. To the reaction mixture were added water and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2.58 g of methyl 5-[(2-fluorobenzyl)oxy]-6-nitronicotinate.

reactant | methyl 5-hydroxy-6-nitronicotinate | 2 g | OC=1C(=NC=C(C(=O)OC)C1)[N+](=O)[O-] | C7H6N2O5
reactant | (2-fluorophenyl)methanol | 1.62 ml | FC1=C(C=CC=C1)CO | C7H7FO
reactant | tributylphosphine | 3.99 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diethyl azodicarboxylate | 2.54 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 5-[(2-fluorobenzyl)oxy]-6-nitronicotinate | 2.58 g | FC1=C(COC=2C(=NC=C(C(=O)OC)C2)[N+](=O)[O-])C=CC=C1 | C14H11FN2O5
